US08242125B2
149-D. N-(5-cyclopropyl-1-methyl-1H-pyrazol-3-yl)-5-(2-((methylamino)methyl)pyridin-4-yloxy)-1H-indole-1-carboxamide
To a solution of tert-butyl (4-(1-(5-cyclopropyl-1-methyl-1H-pyrazol-3-ylcarbamoyl)-1H-indol-5-yloxy)pyridin-2-yl)methyl(methyl)carbamate (0.124 g, 0.240 mmol) in DCM (5 ml) is added TFA (2 ml, 0.240 mmol). The reaction is stirred for approximately 30 minutes and then concentrated in vacuo to near dryness. The residue is dissolved in DCM, diluted with water and neutralized via the addition of saturated aqueous NaHCO3. The resulting layers are then separated and the aqueous layer is extracted twice with DCM. The organic layers are combined dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue is purified via FCC (0-15% MeOH/DCM) to provide the title compound. MS (ESI) m/z 417.2 (M+1). 1HNMR (400 MHz, DMSO-d6) δ ppm 0.64-0.70 (m, 2H) 0.96-1.02 (m, 2H) 1.87-1.96 (m, 1H) 2.27 (s, 3H) 3.71 (s, 2H) 3.80 (s, 3H) 6.16 (d, J=0.51 Hz, 1H) 6.73 (dd, J=3.79, 0.51 Hz, 1H) 6.80 (dd, J=5.56, 2.53 Hz, 1H) 6.93 (d, J=2.02 Hz, 1H) 7.09 (dd, J=8.97, 2.40 Hz, 1H) 7.42 (d, J=2.27 Hz, 1H) 8.17 (d, J=3.54 Hz, 1H) 8.33 (d, J=8.84 Hz, 1H) 8.36 (d, J=5.81 Hz, 1H).

reactant | tert-butyl (4-(1-(5-cyclopropyl-1-methyl-1H-pyrazol-3-ylcarbamoyl)-1H-indol-5-yloxy)pyridin-2-yl)methyl(methyl)carbamate | 0.240 mmol, 0.124 g | C1(CC1)C1=CC(=NN1C)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)CN(C(OC(C)(C)C)=O)C | C28H32N6O4
reactant | TFA | 0.240 mmol, 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(5-cyclopropyl-1-methyl-1H-pyrazol-3-yl)-5-(2-((methylamino)methyl)pyridin-4-yloxy)-1H-indole-1-carboxamide | C1(CC1)C1=CC(=NN1C)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)CNC | C23H24N6O2
